US08710232B2
Ethyl 3-(6-aminopyridin-3-yl)-2-(1H-imidazol-4-yl)propionate (100 mg; 0.38 mmol) was dissolved in absolute DMF (2 ml). Sodium hydride (50%; 19 mg; 0.38 mmol) was added, and the reaction mixture was stirred at RT for 1 h. Then 1-[4-(2-bromoethyl)piperidin-1-yl]-2,2-diphenylethanone (148 mg; 0.38 mmol) dissolved in absolute DMF (1 ml) was added. The reaction mixture was stirred at RT for 1 h and then concentrated under reduced pressure. The residue was taken up in 1N HCl and washed with dichlormethane (CH2Cl2; 2×). The aqueous phase was made basic with 1N NaOH and extracted with CH2Cl2 (3×). The combined organic phases were dried over Na2SO4. Removal of the solvent under reduced pressure resulted in ethyl 3-(6-aminopyridin-3-yl)-2-{1-[2-(1-diphenylacetylpiperidin-4-yl)ethyl]-1H-imidazol-4-yl}propionate (71 mg; 0.12 mmol).

reactant | Ethyl 3-(6-aminopyridin-3-yl)-2-(1H-imidazol-4-yl)propionate | 0.38 mmol, 100 mg | NC1=CC=C(C=N1)CC(C(=O)OCC)C=1N=CNC1 | C13H16N4O2
reactant | Sodium hydride | 0.38 mmol, 19 mg | [H-].[Na+]
reactant | 1-[4-(2-bromoethyl)piperidin-1-yl]-2,2-diphenylethanone | 0.38 mmol, 148 mg | BrCCC1CCN(CC1)C(C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C21H24BrNO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | ethyl 3-(6-aminopyridin-3-yl)-2-{1-[2-(1-diphenylacetylpiperidin-4-yl)ethyl]-1H-imidazol-4-yl}propionate | 0.12 mmol, 71 mg | NC1=CC=C(C=N1)CC(C(=O)OCC)C=1N=CN(C1)CCC1CCN(CC1)C(C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C34H39N5O3
